US07579473B2
Sodium ethoxide (74.8 g, 1.1 mol) was added to a solution of 1-(2-amino-4-benzyloxy-5-methoxyphenyl)ethanone (29.3 g, 108 mmol) in DME (700 mL) and stirred for 30 min. Ethyl formate (44 mL, 540 mmol) was added and the mixture was stirred overnight (in case of incomplete reaction, additional sodium ethoxide can be added and the reaction monitored by LC/MS). After the reaction was complete, the mixture was diluted with water (40 mL) and acidified to neutral pH with 1M HCl. The solid was filtered, washed with water and dried to afford 7-benzyloxy-6-methoxyquinolin-4-ol (22 g, 72%). 1H NMR (400 MHz, CDCl3): δ 10.7 (br s, 1H), 7.70 (s, 1H), 7.49-7.46 (t, 1H), 7.43-7.41 (br d, 2H), 7.37-7.33 (t, 2H), 7.30-7.28 (d, 1H), 6.84 (s, 1H), 6.21-6.19 (d, 1H), 5.21 (s, 2H), 3.96 (s, 3H). LC/MS (M+H=282).

reactant | Sodium ethoxide | 1.1 mol, 74.8 g | [O-]CC.[Na+]
reactant | 1-(2-amino-4-benzyloxy-5-methoxyphenyl)ethanone | 108 mmol, 29.3 g | NC1=C(C=C(C(=C1)OCC1=CC=CC=C1)OC)C(C)=O | C16H17NO3
reactant | Ethyl formate | 540 mmol, 44 mL | C(=O)OCC | C3H6O2
reactant | HCl | 1M | Cl | ClH
solvent | DME | 700 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
product | 7-benzyloxy-6-methoxyquinolin-4-ol | 22 g, 72% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)O)OC | C17H15NO3
